* Z:\home\arturo\Jammer-react\Draft1.asc
XU1 N006 0 N002 N010 PC817 Igain=1m
D1 0 N006 D
V1 N005 0 PULSE(0 5 1 0 0 2 4 3)
V2 N002 0 5
R1 N006 N005 1k
XU2 N008 N012 N009 0 PC817 Igain=1m
D2 N012 N008 D
R3 N008 N007 10k
R4 N009 0 100mR
V3 N007 0 PULSE(0 5 1 0 0 2 4 3)
Q1 N003 N011 0 0 2N3055
R2 N011 N010 1kR
R5 N001 N003 1kR
R6 N004 0 10k
S1 N004 N001 N001 N003 MYSW
V4 N001 0 24
.model D D
.lib C:\users\arturo\Mis Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\arturo\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 10
.model MYSW SW(Ron=1 Roff=1Meg Vt=12 Vh=0)
.lib PC817.sub
.backanno
.end
